US07662811B2
N—((R)-6-((cyclopropylamino)methyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-((R)-3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetamide
(R)-2-(3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid (6 g, 19.33 mmol) was dissolved in anhydrous DMF (100 mL). (R)-(5-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)methanol (3.77 g, 21.27 mmol) and HOBt (Aldrich, 3.14 g, 23.20 mmol) were added followed by EDCI (Aldrich, 4.45 g, 23.20 mmol). The mixture was stirred at RT for 5 h. EtOAc (250 mL) was added and the solution was washed with saturated sodium bicarbonate/brine (2×200 mL), then with 10% HCl/brine (200 mL), then with brine (200 mL). It was concentrated and dried in vacuo to give the desired product.

reactant | (R)-2-(3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid | 19.33 mmol, 6 g | O=C1[C@H](N(C=CN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)O | C13H14N2O5S
reactant | (R)-(5-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)methanol | 21.27 mmol, 3.77 g | N[C@H]1C=2C=CC(=CC2CCC1)CO | C11H15NO
reactant | HOBt | 23.20 mmol, 3.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 23.20 mmol, 4.45 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | N—((R)-6-((cyclopropylamino)methyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-((R)-3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetamide | C1(CC1)NCC=1C=C2CCC[C@H](C2=CC1)NC(C[C@H]1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C)C=C1)=O | C27H32N4O4S
